US06420426B1
A solution of [4-acetylamino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid allyl ester (0.114 g, 0.24 mmol) in 10% H2O in 1,4-dioxane (8 mL, 0.03 M) was treated with pyrollidine (0.05 mL, 0.60 mmol) and [(C6H5)3P]4Pd (0.01 g, 3.6 mol%) was stirred for 6 h. The reaction was diluted with ethyl acetate and washed with 2 N HCl (3×), H2O (2×), saturated aq NaCl, dried over MgSO4, filtered, concentrated and recrystallized from heptane and ethyl acetate to give [4-acetylamino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid (0.055 g, 52%) as a white solid: mp 235° C.; 1H NMR (DMSO-d6, 300 MHz) δ 9.93 (br s, 1H), 9.16 (br t, 1H), 7.98 (br d, J=2.7 Hz, 1H), 7.73 (br dd, J1=9.0 Hz, J2=2.7 Hz, 1 H), 7.44-7.20 (m, 2H), 7.20-7.00 (m, 2H), 4.80 (s, 2H), 4.54 br d, J=4.5 Hz, 2H), 1.99 (s, 3H).

reactant | [4-acetylamino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid allyl ester | 0.24 mmol, 0.114 g | C(C=C)OC(COC1=C(C=C(C=C1)NC(C)=O)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C21H20BrFN2O5
reactant | pyrollidine | 0.60 mmol, 0.05 mL | N1CCCC1 | C4H9N
solvent | H2O | O | H2O
solvent | 1,4-dioxane | 0.03 M, 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-acetylamino-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid | 0.055 g, 52% | C(C)(=O)NC1=CC(=C(OCC(=O)O)C=C1)C(NCC1=C(C=C(C=C1)Br)F)=O | C18H16BrFN2O5
